### PR TITLE
Category of algebras of a theory

### PR DESCRIPTION
**Pull request by djspacewhale**
For a signature `S` and `S`-theory `T`, there is a large precategory of `T`-algebras and `T`-algebra homomorphisms. Even better, this (large) precategory is a (large) category. 

To define this category, this PR also characterizes the identity types of `T`-algebras, as both homomorphisms which are also equivalences and as equivalences which preserve operations, making good use of various identity-type technology in the `foundation` namespace.

### CODE REVIEW

File: src/lists/functoriality-tuples.lagda.md [hunk 1]
```diff
@@ -62,3 +62,38 @@ module _
   binary-map-tuple f empty-tuple empty-tuple = empty-tuple
   binary-map-tuple f (x ∷ v) (y ∷ w) = f x y ∷ binary-map-tuple f v w
 ```
+
+## Properties
+
+### The `tuple` functor preserves identity maps
```
Comment (fredrik-bakke) [inline src/lists/functoriality-tuples.lagda.md]:
```suggestion
### The action on maps of tuples preserves identity maps
```

File: src/lists/functoriality-tuples.lagda.md [hunk 2]
```diff
@@ -62,3 +62,38 @@ module _
...
+preserves-id-map-tuple A (succ-ℕ n) (x ∷ xs) =
+  eq-Eq-tuple
+  ( succ-ℕ n)
+  ( x ∷ xs)
+  ( map-tuple id (x ∷ xs))
+  ( refl ,
+    Eq-eq-tuple n xs (map-tuple (λ a → a) xs) (preserves-id-map-tuple A n xs))
+```
+
+### The `tuple` functor preserves compositions
```
Comment (fredrik-bakke) [inline src/lists/functoriality-tuples.lagda.md]:
```suggestion
### The action on maps of tuples preserves composition
```

File: src/lists/functoriality-tuples.lagda.md [hunk 3]
```diff
@@ -62,3 +62,38 @@ module _
...
+  (n : ℕ) (x : tuple A n) (f : A → B) (g : B → C) →
+  map-tuple g (map-tuple f x) ＝ map-tuple (g ∘ f) x
+preserves-comp-map-tuple A B C zero-ℕ empty-tuple f g = refl
+preserves-comp-map-tuple A B C (succ-ℕ n) (x ∷ xs) f g =
+  eq-Eq-tuple
+  ( succ-ℕ n)
+  ( map-tuple g (map-tuple f (x ∷ xs)))
+  ( map-tuple (g ∘ f) (x ∷ xs))
+  ( refl , Eq-eq-tuple n (map-tuple g (map-tuple f xs)) (map-tuple (g ∘ f) xs)
+    ( preserves-comp-map-tuple A B C n xs f g))
```
Comment (fredrik-bakke) [inline src/lists/functoriality-tuples.lagda.md]: The types can be made implicit

File: src/lists/functoriality-tuples.lagda.md [hunk 4]
```diff
@@ -62,3 +62,38 @@ module _
...
+preserves-id-map-tuple :
+  {l : Level} (A : UU l) (n : ℕ) (x : tuple A n) → x ＝ map-tuple id x
+preserves-id-map-tuple A zero-ℕ empty-tuple = refl
+preserves-id-map-tuple A (succ-ℕ n) (x ∷ xs) =
+  eq-Eq-tuple
+  ( succ-ℕ n)
+  ( x ∷ xs)
+  ( map-tuple id (x ∷ xs))
+  ( refl ,
+    Eq-eq-tuple n xs (map-tuple (λ a → a) xs) (preserves-id-map-tuple A n xs))
```
Comment (fredrik-bakke) [inline src/lists/functoriality-tuples.lagda.md]:
```suggestion
preserves-id-map-tuple :
  {l : Level} (n : ℕ) {A : UU l} (x : tuple A n) → x ＝ map-tuple id x
preserves-id-map-tuple zero-ℕ empty-tuple = refl
preserves-id-map-tuple (succ-ℕ n) (x ∷ xs) =
  eq-Eq-tuple
  ( succ-ℕ n)
  ( x ∷ xs)
  ( map-tuple id (x ∷ xs))
  ( refl ,
    Eq-eq-tuple n xs (map-tuple id xs) (preserves-id-map-tuple n xs))
```

File: src/foundation/subtype-identity-principle.lagda.md [hunk 5]
```diff
@@ -107,4 +107,10 @@ module _
       ( map-extensionality-type-subtype f)
       ( is-equiv-map-equiv ∘ f)
       ( z)
+
+  inv-map-extensionality-type-subtype :
+    (f : (x : A) → (a ＝ x) ≃ Eq-A x) →
+    (z : Σ A (type-Prop ∘ P)) → Eq-A (pr1 z) → (a , p) ＝ z
+  inv-map-extensionality-type-subtype f z =
```
Comment (fredrik-bakke) [inline src/foundation/subtype-identity-principle.lagda.md]:
```suggestion
  map-inv-extensionality-type-subtype :
    (f : (x : A) → (a ＝ x) ≃ Eq-A x) →
    (z : Σ A (type-Prop ∘ P)) → Eq-A (pr1 z) → (a , p) ＝ z
  map-inv-extensionality-type-subtype f z =
```

File: src/lists/functoriality-tuples.lagda.md (hunk 1 above)
Comment (fredrik-bakke) [reply src/lists/functoriality-tuples.lagda.md]: This is a step towards establishing the cited functor, so the above avoids circularity

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 6]
```diff
@@ -102,4 +109,56 @@ module _
...
+  is-equiv-Eq-eq-Algebra :
+    {l3 : Level} (A B : Algebra Sg Th l3) →
+    is-equiv (Eq-eq-Algebra A B)
+  is-equiv-Eq-eq-Algebra (A , p) =
+    subtype-identity-principle
+    ( is-prop-is-algebra Sg Th)
+    ( p)
+    ( refl-Eq-Model-Signature Sg A)
+    ( Eq-eq-Algebra (A , p))
+    ( is-equiv-Eq-eq-Model-Signature Sg A)
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
      ( is-prop-is-algebra Sg Th)
      ( p)
      ( refl-Eq-Model-Signature Sg A)
      ( Eq-eq-Algebra (A , p))
      ( is-equiv-Eq-eq-Model-Signature Sg A)
```

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 7]
```diff
@@ -102,4 +109,56 @@ module _
...
+    {l3 : Level} (A B : Algebra Sg Th l3) →
+    Eq-Algebra A B → A ＝ B
+  eq-Eq-Algebra A B = map-inv-equiv (equiv-Eq-eq-Algebra A B)
+
+  is-torsorial-Eq-Algebra :
+    {l3 : Level} (A : Algebra Sg Th l3) → is-torsorial (Eq-Algebra A)
+  is-torsorial-Eq-Algebra A =
+    fundamental-theorem-id'
+    ( Eq-eq-Algebra A)
+    ( λ B → is-equiv-Eq-eq-Algebra A B)
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
  abstract
    is-torsorial-Eq-Algebra :
      {l3 : Level} (A : Algebra Sg Th l3) → is-torsorial (Eq-Algebra A)
    is-torsorial-Eq-Algebra A =
      fundamental-theorem-id'
        ( Eq-eq-Algebra A)
        ( λ B → is-equiv-Eq-eq-Algebra A B)
```

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 8]
```diff
@@ -102,4 +109,56 @@ module _
...
+  { l2 : Level} ( Th : Theory Sg l2)
+  where
+
+  Eq-Algebra : {l3 : Level} (A B : Algebra Sg Th l3) → UU (l1 ⊔ l3)
+  Eq-Algebra A B =
+    Eq-Model-Signature Sg (model-Algebra Sg Th A) (model-Algebra Sg Th B)
+
+  Eq-eq-Algebra :
+    {l3 : Level} (A B : Algebra Sg Th l3) → A ＝ B →
+    Eq-Algebra A B
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
    {l3 : Level} (A B : Algebra Sg Th l3) → A ＝ B → Eq-Algebra A B
```

File: src/universal-algebra/category-of-algebras-of-theories.lagda.md
Comment (fredrik-bakke) [inline src/universal-algebra/category-of-algebras-of-theories.lagda.md:1]: Please add an entry for this to `tables/categories.md`

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 9]
```diff
@@ -47,6 +65,20 @@ module _
         ( f (is-model-set-Algebra Sg Th Alg1 op v) ＝
           ( is-model-set-Algebra Sg Th Alg2 op (map-tuple f v)))
 
+  is-prop-preserves-operations-Algebra :
+    (f : type-Algebra Sg Th Alg1 → type-Algebra Sg Th Alg2) →
+    is-prop (preserves-operations-Algebra f)
+  is-prop-preserves-operations-Algebra f =
+    is-prop-Π (λ x →
+      is-prop-Π (λ y → pr2 (pr1 (pr1 Alg2)) (f (pr2 (pr1 Alg1) x y))
+        (pr2 (pr1 Alg2) x (map-tuple f y))))
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
    is-prop-Π
      ( λ x →
        is-prop-Π
          ( λ y → pr2 (pr1 (pr1 Alg2)) (f (pr2 (pr1 Alg1) x y)) (pr2 (pr1 Alg2) x (map-tuple f y))))
```

Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: Please use named projections for the algebra rather than iterated projections, i.e., `is-set-Algebra` and so on

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 10]
```diff
@@ -62,4 +94,255 @@ module _
...
+### Composition of algebra homomorphisms
+
+```agda
+module _
+  { l1 : Level} ( Sg : signature l1)
+  { l2 : Level} ( Th : Theory Sg l2)
+  { l3 l4 l5 : Level}
+  ( Alg1 : Algebra Sg Th l3)
+  ( Alg2 : Algebra Sg Th l4)
+  ( Alg3 : Algebra Sg Th l5)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
  {l1 l2 l3 l4 l5 : Level}
  (Sg : signature l1)
  (Th : Theory Sg l2)
  (Alg1 : Algebra Sg Th l3)
  (Alg2 : Algebra Sg Th l4)
  (Alg3 : Algebra Sg Th l5)
```

Comment (fredrik-bakke) [reply src/universal-algebra/homomorphisms-of-algebras.lagda.md]: I'm not the greatest fan of the variable naming scheme emerging in `universal-algebra`, and especially not numbering of algebras that is happening here. Instead, I suggest you use the lowercase greek letters (`σ`,`τ`,`ρ` [...]) for signatures, the uppercase latin letters (`T`, `S`, `R` [...]) for theories, and (`A`, `B`, `C` [...]) or (`X`, `Y`, `Z` [...]) or (`U`, `V`, `W` [...]) for algebras.

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 11]
```diff
@@ -62,4 +94,255 @@ module _
...
+
+### The type of algebra homomorphisms for any theory is a set
+
+```agda
+module _
+  { l1 : Level} ( Sg : signature l1)
+  { l2 : Level} ( Th : Theory Sg l2)
+  { l3 l4 : Level}
+  ( Alg1 : Algebra Sg Th l3)
+  ( Alg2 : Algebra Sg Th l4)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
  {l1 l2 l3 l4 : Level}
  (Sg : signature l1)
  (Th : Theory Sg l2)
  (Alg1 : Algebra Sg Th l3)
  (Alg2 : Algebra Sg Th l4)
```

Comment (fredrik-bakke) [reply src/universal-algebra/homomorphisms-of-algebras.lagda.md]: See also comment above about variable naming

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 12]
```diff
@@ -62,4 +94,255 @@ module _
...
+
+  is-equiv-htpy-eq-hom-Algebra :
+    (f g : hom-Algebra Sg Th Alg1 Alg2) → is-equiv (htpy-eq-hom-Algebra f g)
+  is-equiv-htpy-eq-hom-Algebra (f , p) =
+    subtype-identity-principle
+    ( is-prop-preserves-operations-Algebra Sg Th Alg1 Alg2)
+    ( p)
+    ( refl-htpy)
+    ( htpy-eq-hom-Algebra (f , p))
+    ( funext f)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
    subtype-identity-principle
      ( is-prop-preserves-operations-Algebra Sg Th Alg1 Alg2)
      ( p)
      ( refl-htpy)
      ( htpy-eq-hom-Algebra (f , p))
      ( funext f)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 13]
```diff
@@ -62,4 +94,255 @@ module _
...
+
+  equiv-htpy-eq-hom-Algebra :
+    (f g : hom-Algebra Sg Th Alg1 Alg2) → (f ＝ g) ≃ (htpy-hom-Algebra f g)
+  equiv-htpy-eq-hom-Algebra f g =
+    (htpy-eq-hom-Algebra f g) , is-equiv-htpy-eq-hom-Algebra f g
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
    ( htpy-eq-hom-Algebra f g , is-equiv-htpy-eq-hom-Algebra f g)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 14]
```diff
@@ -62,4 +94,255 @@ module _
...
+  refl-htpy-hom-Algebra f = refl-htpy
+```
+
+### The identity map is an algebra homomorphism
+
+```agda
+module _
+  { l1 : Level} ( Sg : signature l1)
+  { l2 : Level} ( Th : Theory Sg l2)
+  { l3 : Level} ( Alg : Algebra Sg Th l3)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
  {l1 l2 l3 : Level} (Sg : signature l1) (Th : Theory Sg l2) (Alg : Algebra Sg Th l3)
```

Comment (fredrik-bakke) [reply src/universal-algebra/homomorphisms-of-algebras.lagda.md]: see also my comment above about naming

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 15]
```diff
@@ -62,4 +94,255 @@ module _
...
+  where
+
+  is-hom-id-Algebra : preserves-operations-Algebra Sg Th Alg Alg id
+  is-hom-id-Algebra op v =
+    ap
+    ( pr2 (pr1 Alg) op)
+    ( preserves-id-map-tuple (pr1 (pr1 (pr1 Alg))) (pr2 Sg op) v)
+
+  id-hom-Algebra : hom-Algebra Sg Th Alg Alg
+  id-hom-Algebra = id , is-hom-id-Algebra
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: We format pairs as in the common mathematical notation: with parentheses.
```suggestion
  id-hom-Algebra = (id , is-hom-id-Algebra)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 16]
```diff
@@ -62,4 +94,255 @@ module _
...
+
+```agda
+module _
+  { l1 : Level} ( Sg : signature l1)
+  { l2 : Level} ( Th : Theory Sg l2)
+  { l3 l4 l5 l6 : Level}
+  ( Alg1 : Algebra Sg Th l3)
+  ( Alg2 : Algebra Sg Th l4)
+  ( Alg3 : Algebra Sg Th l5)
+  ( Alg4 : Algebra Sg Th l6)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: We quantify over all the relevant universe levels first by convention

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 17]
```diff
@@ -62,4 +94,255 @@ module _
...
+    ( comp-hom-Algebra Sg Th Alg1 Alg2 Alg2 (id-hom-Algebra Sg Th Alg2) f) f
+    ( refl-htpy)
+
+  right-unit-law-comp-hom-Algebra :
+    (f : hom-Algebra Sg Th Alg1 Alg2) →
+    comp-hom-Algebra Sg Th Alg1 Alg1 Alg2 f (id-hom-Algebra Sg Th Alg1) ＝ f
+  right-unit-law-comp-hom-Algebra f =
+    eq-htpy-hom-Algebra Sg Th Alg1 Alg2
+    ( comp-hom-Algebra Sg Th Alg1 Alg1 Alg2 f (id-hom-Algebra Sg Th Alg1)) f
+    ( refl-htpy)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: When applying a function to arguments over multiple lines, we indent the arguments

```suggestion
    eq-htpy-hom-Algebra Sg Th Alg1 Alg2
      ( comp-hom-Algebra Sg Th Alg1 Alg1 Alg2 f (id-hom-Algebra Sg Th Alg1)) f
      ( refl-htpy)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 18]
```diff
@@ -62,4 +94,255 @@ module _
...
+module _
+  { l1 : Level} ( Sg : signature l1)
+  { l2 : Level} ( Th : Theory Sg l2)
+  { l3 : Level} ( A : Algebra Sg Th l3)
+  where
+
+  equiv-equiv-hom-Algebra' :
+    (B : Algebra Sg Th l3) → equiv-hom-Algebra Sg Th A B ≃
+    Σ (hom-Set (pr1 (pr1 A)) (pr1 (pr1 B)))
+      (λ f → is-equiv f × preserves-operations-Algebra Sg Th A B f)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
      (λ f → (is-equiv f) × (preserves-operations-Algebra Sg Th A B f))
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 19]
```diff
@@ -62,4 +94,255 @@ module _
...
+  pr1 (equiv-equiv-hom-Algebra' B) ((f , p) , eq) = f , eq , p
+  pr1 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = (f , p) , eq
+  pr2 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
+  pr1 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = (f , p) , eq
+  pr2 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: This should be moved to `isomorphisms-of-algebras`

File: src/lists/functoriality-tuples.lagda.md (hunk 3 above)
Comment (fredrik-bakke) [reply src/lists/functoriality-tuples.lagda.md]: also, the quantification over tuples should come last
```suggestion
preserves-comp-map-tuple :
  {l1 l2 l3 : Level} (n : ℕ) {A : UU l1} {B : UU l2} {C : UU l3}
  (f : A → B) (g : B → C) (x : tuple A n) →
  map-tuple g (map-tuple f x) ＝ map-tuple (g ∘ f) x
preserves-comp-map-tuple zero-ℕ f g empty-tuple = refl
preserves-comp-map-tuple (succ-ℕ n) f g (x ∷ xs) =
  eq-Eq-tuple
  ( succ-ℕ n)
  ( map-tuple g (map-tuple f (x ∷ xs)))
  ( map-tuple (g ∘ f) (x ∷ xs))
  ( refl ,
    Eq-eq-tuple n
      ( map-tuple g (map-tuple f xs))
      ( map-tuple (g ∘ f) xs)
      ( preserves-comp-map-tuple n f g xs))
```

**Comment by djspacewhale** [comment]
I think 3. and 4. are style incongruencies across the namespace; I can spend some maintenance time cleaning up my commits and the other files as well.

2 is a bad habit of mine that needs breaking, yes; when I'm aware there are several layers of projections going on, especially when the type inferencer is throwing around pr1's and pr2's rather than named projections, I rely too much on Agda-mode's auto to fill the goal. I'll clean those up. 

Noted about 1.

**Comment by fredrik-bakke** [comment]
If you are fixing some mistakes in the broader `universal-algebra` namespace, would you mind also renaming `is-set-Algebra` to `is-set-type-Algebra`? The former should be interpreted as `is-set (Algebra T l)` which is false in general AFAICT.

File: src/universal-algebra/algebras-of-theories.lagda.md (hunk 7 above)
Comment (djspacewhale) [reply src/universal-algebra/algebras-of-theories.lagda.md]: why is 'abstract' preferred for this definition? more generally, when should I make definitions abstract vs leave them as they are?

**Comment by djspacewhale** [comment]
Oh yes, that's certainly false in general! Try `group-Algebra l = Algebra (group-signature group-Theory l)` and transport along the equivalence with the non-set `Group l`. I'll change that as well then.

File: src/universal-algebra/algebras-of-theories.lagda.md (hunk 7 above)
Comment (fredrik-bakke) [reply src/universal-algebra/algebras-of-theories.lagda.md]: We usually mark `is-torsorial` proofs as `abstract` since they rarely compute to anything nice, and this blocks Agda from unfolding the definition, leading to faster type checking. You can consider it safe here, since `is-torsorial` is a proposition it propositionally computes to any other witness of torsoriality regardless. However, we don't always mark proofs of propositions as abstract, the prime example is probably proofs of universal properties since we usually want those maps to compute strictly.

**Comment by fredrik-bakke** [comment]
Thank you!

File: src/universal-algebra/algebras-of-theories.lagda.md (hunk 7 above)
Comment (fredrik-bakke) [reply src/universal-algebra/algebras-of-theories.lagda.md]: Another typical example of something we tend to mark as abstract are proofs of equations on a set.

File: src/universal-algebra/category-of-algebras-of-theories.lagda.md
Comment (djspacewhale) [reply src/universal-algebra/category-of-algebras-of-theories.lagda.md:1]: Added an entry, let me know how the formatting is there.

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 20]
```diff
@@ -33,30 +40,29 @@ equations in the theory.
 
 ```agda
 module _
-  { l1 : Level} ( Sg : signature l1)
-  { l2 : Level} ( Th : Theory Sg l2)
+  { l1 l2 : Level} (σ : signature l1) (T : Theory σ l2)
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
  {l1 l2 : Level} (σ : signature l1) (T : Theory σ l2)
```

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 21]
```diff
@@ -95,11 +101,62 @@ module _
...
+    {l3 : Level} (X : Model-Signature σ l3) → Prop (l2 ⊔ l3)
+  pr1 (is-algebra-Prop X) = is-algebra X
+  pr2 (is-algebra-Prop X) = is-prop-is-algebra X
+```
+
+### Characterizing identifications of algebras
+
+```agda
+module _
+  { l1 l2 : Level} (σ : signature l1) (T : Theory σ l2)
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
  {l1 l2 : Level} (σ : signature l1) (T : Theory σ l2)
```

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 22]
```diff
@@ -33,30 +40,29 @@ equations in the theory.
...
 module _
-  { l1 : Level} ( Sg : signature l1)
-  { l2 : Level} ( Th : Theory Sg l2)
+  { l1 l2 : Level} (σ : signature l1) (T : Theory σ l2)
   where
 
   is-algebra :
     { l3 : Level} →
-    ( X : Model-Signature Sg l3) → UU (l2 ⊔ l3)
+    ( X : Model-Signature σ l3) → UU (l2 ⊔ l3)
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
   {l3 : Level} → Model-Signature σ l3 → UU (l2 ⊔ l3)
```

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 23]
```diff
@@ -33,30 +40,29 @@ equations in the theory.
...
+    ( e : index-Theory σ T) →
+    ( assign : assignment σ (type-Model-Signature σ M)) →
+    eval-term σ (is-model-set-Model-Signature σ M) assign
+      ( lhs-Abstract-Equation σ (index-Abstract-Equation-Theory σ T e)) ＝
+      eval-term σ (is-model-set-Model-Signature σ M) assign
+        ( rhs-Abstract-Equation σ (index-Abstract-Equation-Theory σ T e))
 
   Algebra :
     ( l3 : Level) →
     UU (l1 ⊔ l2 ⊔ lsuc l3)
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
 Algebra : (l3 : Level) → UU (l1 ⊔ l2 ⊔ lsuc l3)
```

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 24]
```diff
@@ -67,7 +73,7 @@ module _
   is-model-set-Algebra :
     { l3 : Level} →
     ( Alg : Algebra l3) →
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]: There are still instances of `Alg` being used for an algebra variable here and below

Comment (djspacewhale) [reply src/universal-algebra/algebras-of-theories.lagda.md]: That should be the rest of them from this file at least

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 25]
```diff
@@ -62,3 +78,137 @@ module _
...
+    {l2 : Level} (X : Set l2) (f g : is-model-signature σ X) →
+    htpy-preserves-operations-Model-Signature X f g → f ＝ g
+  eq-htpy-preserves-operations-Model-Signature (X , _) f g p =
+    eq-htpy
+    ( λ op → eq-htpy
+      ( λ v → p op v ∙
+        inv
+        ( ap
+          ( g op)
+          ( preserves-id-map-tuple (arity-operation-signature σ op) v))))
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
    ( λ op →
      eq-htpy
        ( λ v →
          ( p op v) ∙
          ( inv
            ( ap
              ( g op)
              ( preserves-id-map-tuple (arity-operation-signature σ op) v)))))
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 26]
```diff
@@ -62,3 +78,137 @@ module _
...
+    eq-htpy-preserves-operations-Model-Signature X f g
+  pr2 (pr1 (is-equiv-htpy-eq-preserves-operations-Model-Signature X f g)) p =
+    eq-htpy (λ op → eq-htpy (λ v → pr1
+      ( is-set-type-Set X
+        ( map-equiv id-equiv (f op v))
+        ( g op (map-tuple (map-equiv id-equiv) v))
+      (( htpy-eq-preserves-operations-Model-Signature X f g ∘
+        eq-htpy-preserves-operations-Model-Signature X f g)
+        p op v)
+      ( p op v))))
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]: I'm really struggling to parse what is going here, so apologies if this suggestion is ill-formatted
```suggestion
    eq-htpy
      ( λ op →
        eq-htpy
          ( λ v →
            pr1
              ( is-set-type-Set X
                ( map-equiv id-equiv (f op v))
                ( g op (map-tuple id v))
              ( htpy-eq-preserves-operations-Model-Signature X f g
                ( eq-htpy-preserves-operations-Model-Signature X f g
                  ( p)
                  ( op)
                  ( v)))
              ( p op v))))
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 27]
```diff
@@ -62,3 +78,137 @@ module _
...
+    eq-htpy-preserves-operations-Model-Signature X f g
+  pr2 (pr2 (is-equiv-htpy-eq-preserves-operations-Model-Signature X f .f))
+    refl =
+      is-set-has-uip
+      ( is-set-Π (λ op → is-set-function-type (is-set-type-Set X)))
+      ( f)
+      ( f)
+      (( eq-htpy-preserves-operations-Model-Signature X f f
+        ∘ htpy-eq-preserves-operations-Model-Signature X f f) refl)
+      ( refl)
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
      is-set-has-uip
        ( is-set-Π (λ op → is-set-function-type (is-set-type-Set X)))
        ( f)
        ( f)
        ( eq-htpy-preserves-operations-Model-Signature X f f
          ( htpy-eq-preserves-operations-Model-Signature X f f refl))
        ( refl)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 28]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+    equational-reasoning
+    pr1 (comp-hom-Algebra (g , q) (f , p)) (is-model-set-Algebra σ T A op v)
+    ＝ g (is-model-set-Algebra σ T B op (map-tuple f v))
+      by ap g (p op v)
+    ＝ is-model-set-Algebra σ T C op (map-tuple g (map-tuple f v))
+      by q op (map-tuple f v)
+    ＝ is-model-set-Algebra σ T C op
+      (map-tuple (g ∘ f) v)
+      by ap (is-model-set-Algebra σ T C op)
+      ( preserves-comp-map-tuple (arity-operation-signature σ op) f g v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: this should be factored into a second lemma `preserves-operations-map-comp-hom-Algebra`

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 29]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+```agda
+module _
+  {l1 l2 l3 : Level} (σ : signature l1) (T : Theory σ l2) (A : Algebra σ T l3)
+  where
+
+  is-hom-id-Algebra : preserves-operations-Algebra σ T A A id
+  is-hom-id-Algebra op v =
+    ap
+    ( is-model-set-Algebra σ T A op)
+    ( preserves-id-map-tuple (arity-operation-signature σ op) v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
      ( is-model-set-Algebra σ T A op)
      ( preserves-id-map-tuple (arity-operation-signature σ op) v)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 30]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+
+```agda
+module _
+  { l1 l2 l3 l4 l5 l6 : Level}
+  ( σ : signature l1)
+  ( T : Theory σ l2)
+  ( A : Algebra σ T l3)
+  ( B : Algebra σ T l4)
+  ( C : Algebra σ T l5)
+  ( D : Algebra σ T l6)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: This is another prevalent formatting mistake in this namespace. I won't ask you to fix it across the namespace, but opening parentheses in universal quantifications should not be succeeded by spaces as done here
```suggestion
  {l1 l2 l3 l4 l5 l6 : Level}
  (σ : signature l1)
  (T : Theory σ l2)
  (A : Algebra σ T l3)
  (B : Algebra σ T l4)
  (C : Algebra σ T l5)
  (D : Algebra σ T l6)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 31]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+
+### Left and right unit laws for homomorphism composition
+
+```agda
+module _
+  { l1 l2 l3 l4 : Level}
+  ( σ : signature l1)
+  ( T : Theory σ l2)
+  ( A : Algebra σ T l3)
+  ( B : Algebra σ T l4)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
  {l1 l2 l3 l4 : Level}
  (σ : signature l1)
  (T : Theory σ l2)
  (A : Algebra σ T l3)
  (B : Algebra σ T l4)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 32]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+  ( f : hom-Algebra σ T A B)
+  ( eq : is-equiv (map-hom-Algebra σ T A B f))
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
  {l1 l2 l3 l4 : Level}
  (σ : signature l1)
  (T : Theory σ l2)
  (A : Algebra σ T l3)
  (B : Algebra σ T l4)
  (f : hom-Algebra σ T A B)
  (eq : is-equiv (map-hom-Algebra σ T A B f))
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 33]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+  where
+
+  inv-equiv-hom-Algebra : hom-Algebra σ T B A
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: This should be named `hom-inv-is-equiv-hom-Algebra`*

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 34]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+          ( map-tuple (map-inv-is-equiv eq) v)))))
+          where
+          eq2 : (n : ℕ) (w : tuple (type-Algebra σ T B) n) →
+            Eq-tuple n w (map-tuple
+              (map-hom-Algebra σ T A B f)
+              (map-tuple (map-inv-is-equiv eq) w))
+          eq2 zero-ℕ empty-tuple = map-raise star
+          pr1 (eq2 (succ-ℕ n) (x ∷ w)) =
+            inv (is-section-map-section-is-equiv eq x)
+          pr2 (eq2 (succ-ℕ n) (x ∷ w)) = eq2 n w
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: this should be named `preserves-operations-map-hom-inv-is-equiv-hom-Algebra`*

Comment (fredrik-bakke) [reply src/universal-algebra/homomorphisms-of-algebras.lagda.md]: and factored into a second lemma I mean

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 35]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+
+### The property that a homomorphism of algebras is an equivalence
+
+```agda
+module _
+  { l1 l2 l3 l4 : Level}
+  ( σ : signature l1)
+  ( T : Theory σ l2)
+  ( A : Algebra σ T l3)
+  ( B : Algebra σ T l4)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
  {l1 l2 l3 l4 : Level}
  (σ : signature l1)
  (T : Theory σ l2)
  (A : Algebra σ T l3)
  (B : Algebra σ T l4)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 36]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+  right-unit-law-comp-hom-Algebra :
+    (f : hom-Algebra σ T A B) →
+    comp-hom-Algebra σ T A A B f (id-hom-Algebra σ T A) ＝ f
+  right-unit-law-comp-hom-Algebra f =
+    eq-htpy-hom-Algebra σ T A B
+      ( comp-hom-Algebra σ T A A B f (id-hom-Algebra σ T A)) f
+      ( refl-htpy)
+```
+
+### The inverse of an equivalence of algebras
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: everything in this section should be in a file `equivalences-of-algebras` or `isomorphisms-of-algebras`

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 37]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+            Eq-tuple n w (map-tuple
+              (map-hom-Algebra σ T A B f)
+              (map-tuple (map-inv-is-equiv eq) w))
+          eq2 zero-ℕ empty-tuple = map-raise star
+          pr1 (eq2 (succ-ℕ n) (x ∷ w)) =
+            inv (is-section-map-section-is-equiv eq x)
+          pr2 (eq2 (succ-ℕ n) (x ∷ w)) = eq2 n w
+```
+
+### The property that a homomorphism of algebras is an equivalence
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: This should go in the `## Definitions` section of `isomorphisms-of-algebras` or `equivalences-of-algebras`

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md (hunk 30 above)
Comment (djspacewhale) [reply src/universal-algebra/homomorphisms-of-algebras.lagda.md]: Heard.

**Comment by fredrik-bakke** [comment]
Since you cited issues with cyclic dependencies, maybe it is useful to reference how the concepts and files are built up and organized for rings, for instance?

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 38]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+  is-prop-preserves-operations-Algebra :
+    (f : type-Algebra σ T A → type-Algebra σ T B) →
+    is-prop (preserves-operations-Algebra f)
+  is-prop-preserves-operations-Algebra f =
+    is-prop-Π
+      ( λ x →
+        is-prop-Π
+          ( λ y → is-set-type-Algebra σ T B
+            ( f (is-model-set-Algebra σ T A x y))
+            ( is-model-set-Algebra σ T B x (map-tuple f y))))
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: Somewhere in our conventions, it is stated that when an expression exceeds 80 characters, it should be broken into lines starting from the _earliest possible_ point. For lambda expressions, that is considered to be directly after `→`:
```suggestion
          ( λ y →
            is-set-type-Algebra σ T B
              ( f (is-model-set-Algebra σ T A x y))
              ( is-model-set-Algebra σ T B x (map-tuple f y))))
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 39]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+
+  preserves-operations-Algebra-Prop :
+    (f : type-Algebra σ T A → type-Algebra σ T B) →
+    Prop (l1 ⊔ l3 ⊔ l4)
+  preserves-operations-Algebra-Prop f =
+    ( preserves-operations-Algebra f) , (is-prop-preserves-operations-Algebra f)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: I understand this suggestion will look very confusing, and currently this convention undocumented, but essentially, the namespace here is considered to be `Algebra`, and only the namespace should be capitalized, so `prop` is noncapitalized.
```suggestion
  preserves-operations-prop-Algebra :
    (type-Algebra σ T A → type-Algebra σ T B) → Prop (l1 ⊔ l3 ⊔ l4)
  preserves-operations-prop-Algebra f =
    ( preserves-operations-Algebra f , is-prop-preserves-operations-Algebra f)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 40]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
   map-hom-Algebra = pr1
 
   preserves-operations-hom-Algebra :
     ( f : hom-Algebra) →
     preserves-operations-Algebra (map-hom-Algebra f)
   preserves-operations-hom-Algebra = pr2
+
+  hom-Algebra-Subtype :
+    subtype (l1 ⊔ l3 ⊔ l4) (type-Algebra σ T A → type-Algebra σ T B)
+  hom-Algebra-Subtype = preserves-operations-Algebra-Prop
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: This is already recorded with `preserves-operations-Algebra-Prop`, so this entry should be removed

```suggestion
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 41]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+```
+
+### The identity map is an algebra homomorphism
+
+```agda
+module _
+  {l1 l2 l3 : Level} (σ : signature l1) (T : Theory σ l2) (A : Algebra σ T l3)
+  where
+
+  is-hom-id-Algebra : preserves-operations-Algebra σ T A A id
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: `preserves-operations-id-Algebra`

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 42]
```diff
@@ -30,36 +48,280 @@ underlying types such that all the structure is preserved.
...
+      ( comp-hom-Algebra σ T B C D h g) f ＝
+    comp-hom-Algebra σ T A C D h
+      ( comp-hom-Algebra σ T A B C g f)
+  associative-comp-hom-Algebra h g f =
+    eq-htpy-hom-Algebra σ T A D
+    ( comp-hom-Algebra σ T A B D
+      ( comp-hom-Algebra σ T B C D h g) f)
+    ( comp-hom-Algebra σ T A C D h
+      ( comp-hom-Algebra σ T A B C g f))
+    ( refl-htpy)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
      ( comp-hom-Algebra σ T A B D
        ( comp-hom-Algebra σ T B C D h g) f)
      ( comp-hom-Algebra σ T A C D h
        ( comp-hom-Algebra σ T A B C g f))
      ( refl-htpy)
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 43]
```diff
@@ -0,0 +1,170 @@
...
+
+  is-prop-is-iso-Algebra :
+    (f : hom-Algebra σ T A B) → is-prop (is-iso-Algebra f)
+  is-prop-is-iso-Algebra =
+    is-prop-is-iso-Large-Precategory (Algebra-Large-Precategory σ T)
+
+  is-iso-is-equiv-Algebra :
+    (f : hom-Algebra σ T A B) →
+    is-iso-Algebra f →
+    is-equiv-hom-Algebra σ T A B f
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]: this is `is-equiv-hom-is-iso-Algebra`

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 44]
```diff
@@ -0,0 +1,170 @@
...
+  pr1 (pr2 (is-iso-is-equiv-Algebra f (g , p))) = map-hom-Algebra σ T B A g
+  pr2 (pr2 (is-iso-is-equiv-Algebra f (g , (p , q)))) =
+    htpy-eq-hom-Algebra σ T A A
+    ( comp-hom-Algebra σ T A B A g f)
+    ( id-hom-Algebra σ T A) q
+
+  is-equiv-is-iso-Algebra :
+    (f : hom-Algebra σ T A B) →
+    is-equiv-hom-Algebra σ T A B f →
+    is-iso-Algebra f
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]: `is-iso-is-equiv-hom-Algebra`
note that the conclusion comes first in the name

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 45]
```diff
@@ -0,0 +1,170 @@
...
+  pr1 (is-equiv-is-iso-Algebra f eq) = inv-equiv-hom-Algebra σ T A B f eq
+  pr1 (pr2 (is-equiv-is-iso-Algebra f eq)) =
+    eq-htpy-hom-Algebra σ T B B
+    ( comp-hom-Algebra σ T B A B f
+      ( inv-equiv-hom-Algebra σ T A B f eq))
+    ( id-hom-Algebra σ T B)
+    ( is-section-map-section-map-equiv ((map-hom-Algebra σ T A B f) , eq))
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
      ( comp-hom-Algebra σ T B A B f
        ( inv-equiv-hom-Algebra σ T A B f eq))
      ( id-hom-Algebra σ T B)
      ( is-section-map-section-map-equiv ((map-hom-Algebra σ T A B f) , eq))
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 46]
```diff
@@ -0,0 +1,170 @@
...
+  pr2 (pr2 (is-equiv-is-iso-Algebra f eq)) =
+    eq-htpy-hom-Algebra σ T A A
+    ( comp-hom-Algebra σ T A B A
+      ( inv-equiv-hom-Algebra σ T A B f eq) f)
+    ( id-hom-Algebra σ T A)
+    ( htpy ∙h is-retraction-map-retraction-map-equiv
+      ( map-hom-Algebra σ T A B f , eq))
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
      ( comp-hom-Algebra σ T A B A
        ( inv-equiv-hom-Algebra σ T A B f eq)
        ( f))
      ( id-hom-Algebra σ T A)
      ( ( htpy ( map-hom-Algebra σ T A B f , eq)) ∙
        ( is-retraction-map-retraction-map-equiv
          ( map-hom-Algebra σ T A B f , eq)))
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 47]
```diff
@@ -0,0 +1,170 @@
...
+      htpy :
+        map-inv-is-equiv eq ∘
+          map-hom-Algebra σ T A B f ~
+        map-retraction-map-equiv ((map-hom-Algebra σ T A B f) , eq) ∘
+          map-equiv ((map-hom-Algebra σ T A B f) , eq)
+      htpy x =
+        htpy-map-inv-equiv-retraction
+        ( map-hom-Algebra σ T A B f , eq)
+        ( retraction-is-equiv eq)
+        ( map-hom-Algebra σ T A B f x)
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
          ( map-hom-Algebra σ T A B f , eq)
          ( retraction-is-equiv eq)
          ( map-hom-Algebra σ T A B f x)
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 48]
```diff
@@ -0,0 +1,170 @@
...
+
+  equiv-iso-Eq-Algebra : Eq-Algebra σ T A B ≃ iso-Algebra
+  equiv-iso-Eq-Algebra =
+    equiv-type-subtype
+    ( is-prop-is-equiv-hom-Algebra σ T A B)
+    ( is-prop-is-iso-Algebra)
+    ( is-equiv-is-iso-Algebra)
+    ( is-iso-is-equiv-Algebra) ∘e
+    ( inv-equiv (equiv-equiv-hom-Algebra' σ T A B)) ∘e
+    ( equiv-Eq-Model-Signature' σ (model-Algebra σ T A) (model-Algebra σ T B))
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
      ( is-prop-is-equiv-hom-Algebra σ T A B)
      ( is-prop-is-iso-Algebra)
      ( is-equiv-is-iso-Algebra)
      ( is-iso-is-equiv-Algebra) ∘e
      ( inv-equiv (equiv-equiv-hom-Algebra' σ T A B)) ∘e
      ( equiv-Eq-Model-Signature' σ (model-Algebra σ T A) (model-Algebra σ T B))
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 49]
```diff
@@ -0,0 +1,170 @@
...
+module _
+  { l1 l2 l3 : Level} (σ : signature l1) (T : Theory σ l2) (A : Algebra σ T l3)
+  where
+
+  is-torsorial-iso-Algebra : is-torsorial (iso-Algebra σ T A)
+  is-torsorial-iso-Algebra =
+    is-contr-equiv'
+    ( Σ (Algebra σ T l3) (Eq-Algebra σ T A))
+    ( equiv-tot (equiv-iso-Eq-Algebra σ T A))
+    ( is-torsorial-Eq-Algebra σ T A)
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
      ( Σ (Algebra σ T l3) (Eq-Algebra σ T A))
      ( equiv-tot (equiv-iso-Eq-Algebra σ T A))
      ( is-torsorial-Eq-Algebra σ T A)
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 50]
```diff
@@ -0,0 +1,170 @@
...
+
+  is-equiv-iso-eq-Algebra :
+    (B : Algebra σ T l3) →
+    is-equiv (iso-eq-Large-Precategory (Algebra-Large-Precategory σ T) A B)
+  is-equiv-iso-eq-Algebra =
+    fundamental-theorem-id
+    ( is-torsorial-iso-Algebra)
+    ( iso-eq-Large-Precategory (Algebra-Large-Precategory σ T) A)
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
      ( is-torsorial-iso-Algebra)
      ( iso-eq-Large-Precategory (Algebra-Large-Precategory σ T) A)
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 51]
```diff
@@ -0,0 +1,170 @@
...
+  pr1 (pr1 (is-iso-is-equiv-Algebra f (g , p))) = map-hom-Algebra σ T B A g
+  pr2 (pr1 (is-iso-is-equiv-Algebra f (g , (p , q)))) =
+    htpy-eq-hom-Algebra σ T B B
+    ( comp-hom-Algebra σ T B A B f g)
+    ( id-hom-Algebra σ T B) p
+  pr1 (pr2 (is-iso-is-equiv-Algebra f (g , p))) = map-hom-Algebra σ T B A g
+  pr2 (pr2 (is-iso-is-equiv-Algebra f (g , (p , q)))) =
+    htpy-eq-hom-Algebra σ T A A
+    ( comp-hom-Algebra σ T A B A g f)
+    ( id-hom-Algebra σ T A) q
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
      ( comp-hom-Algebra σ T A B A g f)
      ( id-hom-Algebra σ T A)
      ( q)
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 52]
```diff
@@ -0,0 +1,170 @@
...
+
+  is-iso-is-equiv-Algebra :
+    (f : hom-Algebra σ T A B) →
+    is-iso-Algebra f →
+    is-equiv-hom-Algebra σ T A B f
+  pr1 (pr1 (is-iso-is-equiv-Algebra f (g , p))) = map-hom-Algebra σ T B A g
+  pr2 (pr1 (is-iso-is-equiv-Algebra f (g , (p , q)))) =
+    htpy-eq-hom-Algebra σ T B B
+    ( comp-hom-Algebra σ T B A B f g)
+    ( id-hom-Algebra σ T B) p
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
      ( comp-hom-Algebra σ T B A B f g)
      ( id-hom-Algebra σ T B)
      ( p)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md (hunk 34 above)
Comment (fredrik-bakke) [reply src/universal-algebra/homomorphisms-of-algebras.lagda.md]: also see my other formatting corrections for inspiration on how to format this proof

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 53]
```diff
@@ -62,3 +78,144 @@ module _
...
+
+  equiv-Eq-Model-Signature' :
+    {l2 : Level} (X Y : Model-Signature σ l2) → Eq-Model-Signature X Y ≃
+    Σ (hom-Set (pr1 X) (pr1 Y))
+      (λ f → is-equiv f × preserves-operations-Model-Signature X Y f)
+  pr1 (equiv-Eq-Model-Signature' X Y) ((f , eq) , p) = f , eq , p
+  pr1 (pr1 (pr2 (equiv-Eq-Model-Signature' X Y))) (f , eq , p) = (f , eq) , p
+  pr2 (pr1 (pr2 (equiv-Eq-Model-Signature' X Y))) _ = refl
+  pr1 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) (f , eq , p) = (f , eq) , p
+  pr2 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) _ = refl
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
  pr1 (equiv-Eq-Model-Signature' X Y) ((f , eq) , p) = (f , eq , p)
  pr1 (pr1 (pr2 (equiv-Eq-Model-Signature' X Y))) (f , eq , p) = ((f , eq) , p)
  pr2 (pr1 (pr2 (equiv-Eq-Model-Signature' X Y))) _ = refl
  pr1 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) (f , eq , p) = ((f , eq) , p)
  pr2 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) _ = refl
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 54]
```diff
@@ -62,3 +78,144 @@ module _
...
+    ((X , set-X) , assign-X) ((Y , set-Y) , assign-Y) f =
+    is-prop-Π (λ op →
+      is-prop-Π (λ v → set-Y (f (assign-X op v)) (assign-Y op (map-tuple f v))))
+
+  Eq-Model-Signature : {l2 : Level} (X Y : Model-Signature σ l2) → UU (l1 ⊔ l2)
+  Eq-Model-Signature (X , X-assign) (Y , Y-assign) =
+    Σ
+    ( equiv-Set X Y)
+    ( λ (f , _) →
+      preserves-operations-Model-Signature (X , X-assign) (Y , Y-assign) f)
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
    Σ ( equiv-Set X Y)
      ( λ (f , _) →
        preserves-operations-Model-Signature (X , X-assign) (Y , Y-assign) f)
```

**Comment by djspacewhale** [comment]
> Since you cited issues with cyclic dependencies, maybe it is useful to reference how the concepts and files are built up and organized for rings, for instance?

How do you mean? I'm not sure I follow what you're asking for.

**Comment by fredrik-bakke** [comment]
> > Since you cited issues with cyclic dependencies, maybe it is useful to reference how the concepts and files are built up and organized for rings, for instance?
> 
> How do you mean? I'm not sure I follow what you're asking for.

I mean, if you are struggling with organizing the files to avoid cyclic dependencies, maybe looking at how things are structured in similar scenarios can help. If you figured it out then nevermind

**Comment by djspacewhale** [comment]
Ah, I think it's fine now that the definition has been moved. In any event, it's ready for review again!

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 55]
```diff
@@ -30,36 +48,217 @@ underlying types such that all the structure is preserved.
...
-    ( op : operation-signature Sg) →
-    ( v : tuple (type-Algebra Sg Th Alg1)
-      ( arity-operation-signature Sg op)) →
-        ( f (is-model-set-Algebra Sg Th Alg1 op v) ＝
-          ( is-model-set-Algebra Sg Th Alg2 op (map-tuple f v)))
+    ( op : operation-signature σ) →
+    ( v : tuple (type-Algebra σ T A)
+      ( arity-operation-signature σ op)) →
+        ( f (is-model-set-Algebra σ T A op v) ＝
+          ( is-model-set-Algebra σ T B op (map-tuple f v)))
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
    ( v : tuple (type-Algebra σ T A) (arity-operation-signature σ op)) →
    f (is-model-set-Algebra σ T A op v) ＝
    is-model-set-Algebra σ T B op (map-tuple f v)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 56]
```diff
@@ -30,36 +48,217 @@ underlying types such that all the structure is preserved.
...
+  (T : Theory σ l2)
+  (A : Algebra σ T l3)
+  (B : Algebra σ T l4)
+  (C : Algebra σ T l5)
+  where
+
+  preserves-operations-map-comp-hom-Algebra :
+    (g : hom-Algebra σ T B C) (f : hom-Algebra σ T A B) →
+    preserves-operations-Algebra σ T A C
+      (map-hom-Algebra σ T B C g ∘ map-hom-Algebra σ T A B f)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
      ( map-hom-Algebra σ T B C g ∘ map-hom-Algebra σ T A B f)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 57]
```diff
@@ -30,36 +48,217 @@ underlying types such that all the structure is preserved.
...
+  (T : Theory σ l2)
+  (A : Algebra σ T l3)
+  (B : Algebra σ T l4)
+  where
+
+  is-set-hom-Algebra : is-set (hom-Algebra σ T A B)
+  is-set-hom-Algebra =
+    is-set-type-subtype
+    ( preserves-operations-prop-Algebra σ T A B)
+    ( is-set-hom-Set (set-Algebra σ T A) (set-Algebra σ T B))
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
      ( preserves-operations-prop-Algebra σ T A B)
      ( is-set-hom-Set (set-Algebra σ T A) (set-Algebra σ T B))
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 58]
```diff
@@ -0,0 +1,253 @@
...
+  where
+
+  is-equiv-hom-Algebra : (f : hom-Algebra σ T A B) → UU (l3 ⊔ l4)
+  is-equiv-hom-Algebra f = is-equiv (map-hom-Algebra σ T A B f)
+
+  is-prop-is-equiv-hom-Algebra :
+    (f : hom-Algebra σ T A B) → is-prop (is-equiv-hom-Algebra f)
+  is-prop-is-equiv-hom-Algebra f = is-property-is-equiv (pr1 f)
+
+  is-equiv-hom-Algebra-Prop : (f : hom-Algebra σ T A B) → Prop (l3 ⊔ l4)
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]: should be named `is-equiv-hom-prop-Algebra`

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 59]
```diff
@@ -0,0 +1,253 @@
...
+  {l1 l2 l3 l4 : Level}
+  (σ : signature l1)
+  (T : Theory σ l2)
+  (A : Algebra σ T l3)
+  (B : Algebra σ T l4)
+  (f : hom-Algebra σ T A B)
+  (eq : is-equiv (map-hom-Algebra σ T A B f))
+  where
+
+  preserves-operations-map-hom-inv-is-equiv-hom-Algebra* :
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]: `preserves-operations-map-hom-inv-is-equiv-hom-Algebra` no asterisk. I added the asterisk in my comment to notify you that it had been edited after posting, sorry for the confusion

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 60]
```diff
@@ -0,0 +1,253 @@
...
+          eq2 zero-ℕ empty-tuple = map-raise star
+          pr1 (eq2 (succ-ℕ n) (x ∷ w)) =
+            inv (is-section-map-section-is-equiv eq x)
+          pr2 (eq2 (succ-ℕ n) (x ∷ w)) = eq2 n w
+
+  hom-inv-is-equiv-hom-Algebra* : hom-Algebra σ T B A
+  pr1 hom-inv-is-equiv-hom-Algebra* =
+    map-inv-is-equiv eq
+  pr2 hom-inv-is-equiv-hom-Algebra* =
+    preserves-operations-map-hom-inv-is-equiv-hom-Algebra*
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]: no asterisk

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 61]
```diff
@@ -0,0 +1,253 @@
...
+
+  equiv-equiv-hom-Algebra' :
+    (B : Algebra σ T l3) → equiv-hom-Algebra σ T A B ≃
+    Σ (hom-Set (set-Algebra σ T A) (set-Algebra σ T B))
+      (λ f → (is-equiv f) × preserves-operations-Algebra σ T A B f)
+  pr1 (equiv-equiv-hom-Algebra' B) ((f , p) , eq) = f , eq , p
+  pr1 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = (f , p) , eq
+  pr2 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
+  pr1 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = (f , p) , eq
+  pr2 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
  pr1 (equiv-equiv-hom-Algebra' B) ((f , p) , eq) = (f , eq , p)
  pr1 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = ((f , p) , eq)
  pr2 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
  pr1 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = ((f , p) , eq)
  pr2 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 62]
```diff
@@ -62,3 +78,143 @@ module _
...
+
+  preserves-operations-Model-Signature :
+    {l2 : Level} (X Y : Model-Signature σ l2)
+    (f : hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y)) →
+    UU (l1 ⊔ l2)
+  preserves-operations-Model-Signature
+    ((X , _) , assign-X) (Y , assign-Y) f =
+      ( op : operation-signature σ)
+      ( v : tuple X (arity-operation-signature σ op)) →
+        f (assign-X op v) ＝ assign-Y op (map-tuple f v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
      f (assign-X op v) ＝ assign-Y op (map-tuple f v)
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 63]
```diff
@@ -62,3 +78,143 @@ module _
...
+
+  is-prop-preserves-operations-Model-Signature :
+    {l2 : Level} (X Y : Model-Signature σ l2)
+    (f : hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y)) →
+    is-prop (preserves-operations-Model-Signature X Y f)
+  is-prop-preserves-operations-Model-Signature
+    ((X , set-X) , assign-X) ((Y , set-Y) , assign-Y) f =
+    is-prop-Π (λ op →
+      is-prop-Π (λ v → set-Y (f (assign-X op v)) (assign-Y op (map-tuple f v))))
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
    is-prop-Π
      ( λ op →
        is-prop-Π (λ v → set-Y (f (assign-X op v)) (assign-Y op (map-tuple f v))))
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 64]
```diff
@@ -62,3 +78,143 @@ module _
...
+  Eq-Model-Signature : {l2 : Level} (X Y : Model-Signature σ l2) → UU (l1 ⊔ l2)
+  Eq-Model-Signature (X , X-assign) (Y , Y-assign) =
+    Σ ( equiv-Set X Y)
+      ( λ (f , _) →
+        preserves-operations-Model-Signature (X , X-assign) (Y , Y-assign) f)
+
+  equiv-Eq-Model-Signature' :
+    {l2 : Level} (X Y : Model-Signature σ l2) → Eq-Model-Signature X Y ≃
+    Σ (hom-Set (pr1 X) (pr1 Y))
+      (λ f → is-equiv f × preserves-operations-Model-Signature X Y f)
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
    {l2 : Level} (X Y : Model-Signature σ l2) →
    Eq-Model-Signature X Y ≃
    Σ ( hom-Set (pr1 X) (pr1 Y))
      ( λ f → is-equiv f × preserves-operations-Model-Signature X Y f)
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 65]
```diff
@@ -62,3 +78,143 @@ module _
...
+  pr1 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) (f , eq , p) = ((f , eq) , p)
+  pr2 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) _ = refl
+
+  preserves-operations-id-Model-Signature :
+    {l2 : Level} (X : Model-Signature σ l2) →
+    preserves-operations-Model-Signature X X id
+  preserves-operations-id-Model-Signature ((X , _) , assign-X) op v =
+    ap
+    ( assign-X op)
+    ( preserves-id-map-tuple (arity-operation-signature σ op) v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
      ( assign-X op)
      ( preserves-id-map-tuple (arity-operation-signature σ op) v)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 66]
```diff
@@ -30,36 +48,216 @@ underlying types such that all the structure is preserved.
...
+    equational-reasoning
+    (g ∘ f) (is-model-set-Algebra σ T A op v)
+    ＝ g (is-model-set-Algebra σ T B op (map-tuple f v))
+      by ap g (p op v)
+    ＝ is-model-set-Algebra σ T C op (map-tuple g (map-tuple f v))
+      by q op (map-tuple f v)
+    ＝ is-model-set-Algebra σ T C op
+      (map-tuple (g ∘ f) v)
+      by ap (is-model-set-Algebra σ T C op)
+      ( preserves-comp-map-tuple (arity-operation-signature σ op) f g v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]: In line with the "break lines as early as possible" principle, this should be

```suggestion
      by
        ap
          ( is-model-set-Algebra σ T C op)
          ( preserves-comp-map-tuple (arity-operation-signature σ op) f g v)
```

File: src/universal-algebra/homomorphisms-of-algebras.lagda.md [hunk 67]
```diff
@@ -30,36 +48,216 @@ underlying types such that all the structure is preserved.
...
+  where
+
+  is-set-hom-Algebra : is-set (hom-Algebra σ T A B)
+  is-set-hom-Algebra =
+    is-set-type-subtype
+      ( preserves-operations-prop-Algebra σ T A B)
+      ( is-set-hom-Set (set-Algebra σ T A) (set-Algebra σ T B))
+
+  set-hom-Algebra : Set (l1 ⊔ l3 ⊔ l4)
+  set-hom-Algebra = (hom-Algebra σ T A B) , is-set-hom-Algebra
```
Comment (fredrik-bakke) [inline src/universal-algebra/homomorphisms-of-algebras.lagda.md]:
```suggestion
  set-hom-Algebra = (hom-Algebra σ T A B , is-set-hom-Algebra)
```

File: src/lists/functoriality-tuples.lagda.md [hunk 68]
```diff
@@ -62,3 +62,40 @@ module _
   binary-map-tuple f empty-tuple empty-tuple = empty-tuple
   binary-map-tuple f (x ∷ v) (y ∷ w) = f x y ∷ binary-map-tuple f v w
 ```
+
+## Properties
+
+### The action on maps of tuples preserves identity maps
```
Comment (malarbol) [inline src/lists/functoriality-tuples.lagda.md:68]: Shouldn't this be "the action **of** maps **on** tuples ..."? (interchange `of` and `or`)

Comment (fredrik-bakke) [reply src/lists/functoriality-tuples.lagda.md:68]: Oh, that's another possible reading. I like to think of it as the action of the structure of tuples on maps, and I agree the current phrasing, which I suggested, is suboptimal

Comment (malarbol) [reply src/lists/functoriality-tuples.lagda.md:68]: ok. I've always thought of this as "functions acting on tuples" so I thought it was a typo.

Comment (djspacewhale) [reply src/lists/functoriality-tuples.lagda.md:68]: I think the phrasing is fine - the action is not as in `ap` acting on identifications, but as in the `tuple n` functor (monad, really) acting on maps. Perhaps this could be made more explicit? Something like, "The action of the `tuple` functor on functions preserves identity maps"? That feels very out of order in that we need to know it preserves identity maps before we can justify calling it a functor, but regardless.

Comment (malarbol) [reply src/lists/functoriality-tuples.lagda.md:68]: sorry. don't mind my comment. I was just reading though this PR (quite nice work BTW!) and I thought I caught a typo or something.

Comment (djspacewhale) [reply src/lists/functoriality-tuples.lagda.md:68]: Thank you!! Noted. 👍

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 69]
```diff
@@ -0,0 +1,251 @@
...
+  (f : hom-Algebra σ T A B)
+  (eq : is-equiv (map-hom-Algebra σ T A B f))
+  where
+
+  preserves-operations-map-hom-inv-is-equiv-hom-Algebra :
+    preserves-operations-Algebra σ T B A
+      (map-inv-equiv ((map-hom-Algebra σ T A B f) , eq))
+  preserves-operations-map-hom-inv-is-equiv-hom-Algebra op v =
+    map-inv-is-equiv
+    ( is-emb-is-equiv eq
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]: this composite should be something like `is-injective-is-equiv`

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 70]
```diff
@@ -0,0 +1,251 @@
...
+    htpy-eq-hom-Algebra σ T B B
+      ( comp-hom-Algebra σ T B A B f g)
+      ( id-hom-Algebra σ T B)
+      ( p)
+  pr1 (pr2 (is-equiv-hom-is-iso-Algebra f (g , p))) = map-hom-Algebra σ T B A g
+  pr2 (pr2 (is-equiv-hom-is-iso-Algebra f (g , (p , q)))) =
+    htpy-eq-hom-Algebra σ T A A
+      ( comp-hom-Algebra σ T A B A g f)
+      ( id-hom-Algebra σ T A)
+      ( q)
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
  pr1 (pr1 (is-equiv-hom-is-iso-Algebra f (g , p))) =
    map-hom-Algebra σ T B A g
  pr2 (pr1 (is-equiv-hom-is-iso-Algebra f (g , (p , q)))) =
    htpy-eq-hom-Algebra σ T B B
      ( comp-hom-Algebra σ T B A B f g)
      ( id-hom-Algebra σ T B)
      ( p)
  pr1 (pr2 (is-equiv-hom-is-iso-Algebra f (g , p))) =
    map-hom-Algebra σ T B A g
  pr2 (pr2 (is-equiv-hom-is-iso-Algebra f (g , (p , q)))) =
    htpy-eq-hom-Algebra σ T A A
      ( comp-hom-Algebra σ T A B A g f)
      ( id-hom-Algebra σ T A)
      ( q)
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 71]
```diff
@@ -0,0 +1,251 @@
...
+      htpy :
+        map-inv-is-equiv eq ∘
+          map-hom-Algebra σ T A B f ~
+        map-retraction-map-equiv ((map-hom-Algebra σ T A B f) , eq) ∘
+          map-equiv ((map-hom-Algebra σ T A B f) , eq)
+      htpy x =
+        htpy-map-inv-equiv-retraction
+          ( map-hom-Algebra σ T A B f , eq)
+          ( retraction-is-equiv eq)
+          ( map-hom-Algebra σ T A B f x)
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]: these projections should be factored into separate lemmas `is-section-is-equiv-hom-Algebra` and `is-retraction-is-equiv-hom-Algebra` respectively

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md (hunk 70 above)
Comment (fredrik-bakke) [reply src/universal-algebra/isomorphisms-of-algebras.lagda.md]: No.

Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
  is-equiv-hom-is-iso-Algebra f (g , (p , q)) =
    is-equiv-is-invertible
      ( map-hom-Algebra σ T B A g)
      ( htpy-eq-hom-Algebra σ T B B
        ( comp-hom-Algebra σ T B A B f g)
        ( id-hom-Algebra σ T B)
        ( p))
      ( htpy-eq-hom-Algebra σ T A A
        ( comp-hom-Algebra σ T A B A g f)
        ( id-hom-Algebra σ T A)
        ( q))
```

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 72]
```diff
@@ -48,17 +64,163 @@ module _
...
+
+  preserves-operations-Model-Signature :
+    {l2 : Level} (X Y : Model-Signature σ l2)
+    (f : hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y)) →
+    UU (l1 ⊔ l2)
+  preserves-operations-Model-Signature
+    ((X , _) , assign-X) (Y , assign-Y) f =
+      ( op : operation-signature σ)
+      ( v : tuple X (arity-operation-signature σ op)) →
+      f (assign-X op v) ＝ assign-Y op (map-tuple f v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]:
```suggestion
  preserves-operations-Model-Signature ((X , _) , assign-X) (Y , assign-Y) f =
    ( op : operation-signature σ)
    ( v : tuple X (arity-operation-signature σ op)) →
    f (assign-X op v) ＝ assign-Y op (map-tuple f v)
```

File: src/lists/functoriality-tuples.lagda.md [hunk 73]
```diff
@@ -62,3 +62,40 @@ module _
...
+preserves-id-map-tuple :
+  {l : Level} (n : ℕ) {A : UU l} (x : tuple A n) → x ＝ map-tuple id x
+preserves-id-map-tuple zero-ℕ empty-tuple = refl
+preserves-id-map-tuple (succ-ℕ n) (x ∷ xs) =
+  eq-Eq-tuple
+  ( succ-ℕ n)
+  ( x ∷ xs)
+  ( map-tuple id (x ∷ xs))
+  ( refl ,
+    Eq-eq-tuple n xs (map-tuple id xs) (preserves-id-map-tuple n xs))
```
Comment (fredrik-bakke) [inline src/lists/functoriality-tuples.lagda.md]:
```suggestion
  eq-Eq-tuple
    ( succ-ℕ n)
    ( x ∷ xs)
    ( map-tuple id (x ∷ xs))
    ( refl ,
      Eq-eq-tuple n xs (map-tuple id xs) (preserves-id-map-tuple n xs))
```

File: src/lists/functoriality-tuples.lagda.md [hunk 74]
```diff
@@ -62,3 +62,40 @@ module _
...
+preserves-comp-map-tuple (succ-ℕ n) f g (x ∷ xs) =
+  eq-Eq-tuple
+  ( succ-ℕ n)
+  ( map-tuple g (map-tuple f (x ∷ xs)))
+  ( map-tuple (g ∘ f) (x ∷ xs))
+  ( refl ,
+    Eq-eq-tuple n
+      ( map-tuple g (map-tuple f xs))
+      ( map-tuple (g ∘ f) xs)
+      ( preserves-comp-map-tuple n f g xs))
```
Comment (fredrik-bakke) [inline src/lists/functoriality-tuples.lagda.md]: As I commented before, these must be indented one extra level
```suggestion
    ( succ-ℕ n)
    ( map-tuple g (map-tuple f (x ∷ xs)))
    ( map-tuple (g ∘ f) (x ∷ xs))
    ( refl ,
      Eq-eq-tuple n
        ( map-tuple g (map-tuple f xs))
        ( map-tuple (g ∘ f) xs)
        ( preserves-comp-map-tuple n f g xs))
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md (hunk 71 above)
Comment (djspacewhale) [reply src/universal-algebra/isomorphisms-of-algebras.lagda.md]: Do you mean `is-section-is-iso-hom-Algebra` and the like?

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 75]
```diff
@@ -48,17 +64,162 @@ module _
...
+    {l2 : Level} (X : Model-Signature σ l2) → Eq-Model-Signature X X
+  pr1 (refl-Eq-Model-Signature X) = id-equiv
+  pr2 (refl-Eq-Model-Signature X) =
+    preserves-operations-id-Model-Signature X
+
+  htpy-preserves-operations-Model-Signature :
+    {l2 : Level} (X : Set l2) (f g : is-model-signature σ X) → UU (l1 ⊔ l2)
+  htpy-preserves-operations-Model-Signature X f g =
+    preserves-operations-Model-Signature (X , f) (X , g) id
+
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]: It looks like defining homotopies in terms of this other definition has complicated your setup a lot. Would it not be better to write out this condition directly. That seems like it would be a more useful characterization too, no?

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 76]
```diff
@@ -48,17 +64,162 @@ module _
...
+  pr2 (pr2 (is-equiv-htpy-eq-preserves-operations-Model-Signature X f .f))
+    refl =
+      is-set-has-uip
+        ( is-set-Π (λ op → is-set-function-type (is-set-type-Set X)))
+        ( f)
+        ( f)
+        ( eq-htpy-preserves-operations-Model-Signature X f f
+          ( htpy-eq-preserves-operations-Model-Signature X f f refl))
+        ( refl)
+
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]: It is usually much easier to prove extensionality via torsoriality rather than by constructing this equivalence explicitly and showing it is an equivalence as you have done here. I recommend you try to replace this construction with a proof of torsoriality, it might even change your life 😉

Comment (fredrik-bakke) [reply src/universal-algebra/models-of-signatures.lagda.md]: essentially you can just bash any such proof with `is-torsorial-Eq-structure`, `is-torsorial-Eq-Π`, `is-torsorial-htpy`, `is-torsorial-Id`, and `is-torsorial-equiv`. In your case it should be either a single `is-torsorial-binary-htpy` or a composite of `is-torsorial-Eq-Π` and `is-torsorial-htpy` if I'm not mistaken.

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md (hunk 71 above)
Comment (fredrik-bakke) [reply src/universal-algebra/isomorphisms-of-algebras.lagda.md]: The following part
```agda
  pr1 (pr2 (is-iso-is-equiv-hom-Algebra f eq)) =
    eq-htpy-hom-Algebra σ T B B
    ( comp-hom-Algebra σ T B A B f
      ( hom-inv-is-equiv-hom-Algebra σ T A B f eq))
    ( id-hom-Algebra σ T B)
    ( is-section-map-section-map-equiv ((map-hom-Algebra σ T A B f) , eq))
```
should be `is-section-is-equiv-hom-Algebra`, and the following

```agda
  pr2 (pr2 (is-iso-is-equiv-hom-Algebra f eq)) =
    eq-htpy-hom-Algebra σ T A A
      ( comp-hom-Algebra σ T A B A
        ( hom-inv-is-equiv-hom-Algebra σ T A B f eq)
        ( f))
      ( id-hom-Algebra σ T A)
      ( htpy ∙h
        is-retraction-map-retraction-map-equiv (map-hom-Algebra σ T A B f , eq))
      where
      htpy :
        map-inv-is-equiv eq ∘
          map-hom-Algebra σ T A B f ~
        map-retraction-map-equiv ((map-hom-Algebra σ T A B f) , eq) ∘
          map-equiv ((map-hom-Algebra σ T A B f) , eq)
      htpy x =
        htpy-map-inv-equiv-retraction
          ( map-hom-Algebra σ T A B f , eq)
          ( retraction-is-equiv eq)
          ( map-hom-Algebra σ T A B f x)
```

should be `is-retraction-is-equiv-hom-Algebra`. Alternatively they could be `is-split-epi-is-equiv-hom-Algebra` and `is-split-mono-is-equiv-hom-Algebra`, since the terminology is not determined yet. #1072

File: src/universal-algebra/models-of-signatures.lagda.md [hunk 77]
```diff
@@ -48,17 +64,162 @@ module _
...
+  where
+
+  preserves-operations-Model-Signature :
+    {l2 : Level} (X Y : Model-Signature σ l2)
+    (f : hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y)) →
+    UU (l1 ⊔ l2)
+  preserves-operations-Model-Signature ((X , _) , assign-X) (Y , assign-Y) f =
+    ( op : operation-signature σ)
+    ( v : tuple X (arity-operation-signature σ op)) →
+    f (assign-X op v) ＝ assign-Y op (map-tuple f v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/models-of-signatures.lagda.md]: this should go in a new file: "morphisms of models of signatures", together with the htpy characterization given below. Your characterization of equality of models of signatures should go in another new file: "equivalences of models of signatures".

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md (hunk 70 above)
Comment (fredrik-bakke) [reply src/universal-algebra/isomorphisms-of-algebras.lagda.md]: You managed to revert this change again with a recent commit

Comment (djspacewhale) [reply src/universal-algebra/isomorphisms-of-algebras.lagda.md]: Oh, oops, fixing that again hah

File: src/universal-algebra/models-of-signatures.lagda.md (hunk 75 above)
Comment (fredrik-bakke) [reply src/universal-algebra/models-of-signatures.lagda.md]: "a lot" is an exaggeration. Still, it does complicate the characterization one extra step

Comment (djspacewhale) [reply src/universal-algebra/models-of-signatures.lagda.md]: Something like `(op : σ) -> f op ~ g op` then?

Comment (fredrik-bakke) [reply src/universal-algebra/models-of-signatures.lagda.md]: oh, yeah, is that it?

Comment (djspacewhale) [reply src/universal-algebra/models-of-signatures.lagda.md]: I believe so - not at my computer currently, but `preserves-operations-model-signature f {A} {B}` is a dependent map from `op : sigma` to, informally, a homotopy `f (A-str op) ~ B-str (f op)`

Comment (djspacewhale) [reply src/universal-algebra/models-of-signatures.lagda.md:147]: I believe so - not at my computer currently, but `preserves-operations-model-signature f {A} {B}` is a dependent map from `op : sigma` to, informally, a homotopy `f (A-str op) ~ B-str (f op)`

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 78]
```diff
@@ -33,59 +41,54 @@ equations in the theory.
...
-
-  Algebra :
-    ( l3 : Level) →
-    UU (l1 ⊔ l2 ⊔ lsuc l3)
+    ( e : index-Theory σ T) →
+    ( assign : assignment σ (type-Model-Signature σ M)) →
+    eval-term σ (is-model-set-Model-Signature σ M) assign
+      ( lhs-Abstract-Equation σ (index-Abstract-Equation-Theory σ T e)) ＝
+      eval-term σ (is-model-set-Model-Signature σ M) assign
+        ( rhs-Abstract-Equation σ (index-Abstract-Equation-Theory σ T e))
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
    eval-term σ (is-model-set-Model-Signature σ M) assign
      ( rhs-Abstract-Equation σ (index-Abstract-Equation-Theory σ T e))
```

File: src/universal-algebra/algebras-of-theories.lagda.md [hunk 79]
```diff
@@ -33,59 +41,54 @@ equations in the theory.
...
-    eval-term Sg (is-model-set-Model-Signature Sg M) assign
-      ( lhs-Abstract-Equation Sg (index-Abstract-Equation-Theory Sg Th e)) ＝
-      eval-term Sg (is-model-set-Model-Signature Sg M) assign
-        ( rhs-Abstract-Equation Sg (index-Abstract-Equation-Theory Sg Th e))
-
-  Algebra :
-    ( l3 : Level) →
-    UU (l1 ⊔ l2 ⊔ lsuc l3)
+    ( e : index-Theory σ T) →
+    ( assign : assignment σ (type-Model-Signature σ M)) →
```
Comment (fredrik-bakke) [inline src/universal-algebra/algebras-of-theories.lagda.md]:
```suggestion
    (e : index-Theory σ T) →
    (assign : assignment σ (type-Model-Signature σ M)) →
```

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md [hunk 80]
```diff
@@ -0,0 +1,195 @@
...
+
+</details>
+
+## Idea
+
+We characterize [equivalences](foundation-core.equivalences.md) of
+[models](universal-algebra.models-of-signatures.md) of
+[signatures](universal-algebra.signatures.md).
+
+### Characterizing the identity type of model structures over a fixed set
```
Comment (fredrik-bakke) [inline src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]:
```suggestion
[signatures](universal-algebra.signatures.md).

## Properties

### Characterizing the identity type of model structures over a fixed set
```

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md [hunk 81]
```diff
@@ -0,0 +1,195 @@
...
+
+```agda
+module _
+  {l1 l2 : Level} (σ : signature l1) (X : Set l2)
+  where
+
+  htpy-id-Model-Signature :
```
Comment (fredrik-bakke) [inline src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: I find this naming a bit strange, and I don't see why you want to take it as your main definition of homotopy. Surely the other one is nicer, no?

Comment (fredrik-bakke) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: I suggest calling this `htpy-is-model-signature'`, and calling `htpy-id-Model-Signature'` for `htpy-is-model-signature`

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md [hunk 82]
```diff
@@ -0,0 +1,195 @@
...
+        h op v ∙
+        ap
+          ( g op)
+          ( preserves-id-map-tuple (arity-operation-signature σ op) v))
+      ( λ h op v →
+        h op v ∙
+        inv
+          ( ap
+            ( g op)
+            ( preserves-id-map-tuple (arity-operation-signature σ op) v)))
```
Comment (fredrik-bakke) [inline src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: This equivalence should hold independently of the fact that `X` is a set. It is true by `equiv-concat'`!

Comment (fredrik-bakke) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: (which would also simplify your proof)

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md [hunk 83]
```diff
@@ -0,0 +1,195 @@
...
+  equiv-Eq-Model-Signature' :
+    {l2 : Level} (X Y : Model-Signature σ l2) →
+    Eq-Model-Signature X Y ≃
+    Σ ( hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y))
+      ( λ f → is-equiv f × preserves-operations-Model-Signature σ X Y f)
+  pr1 (equiv-Eq-Model-Signature' X Y) ((f , eq) , p) = (f , eq , p)
+  pr1 (pr1 (pr2 (equiv-Eq-Model-Signature' X Y))) (f , eq , p) = ((f , eq) , p)
+  pr2 (pr1 (pr2 (equiv-Eq-Model-Signature' X Y))) _ = refl
+  pr1 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) (f , eq , p) = ((f , eq) , p)
+  pr2 (pr2 (pr2 (equiv-Eq-Model-Signature' X Y))) _ = refl
```
Comment (fredrik-bakke) [inline src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]:
```suggestion
  equiv-Eq-Model-Signature' :
    {l2 : Level} (X Y : Model-Signature σ l2) →
    Eq-Model-Signature X Y ≃
    Σ ( hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y))
      ( λ f → is-equiv f × preserves-operations-Model-Signature σ X Y f)
  equiv-Eq-Model-Signature' X Y = associative-Σ _ _ _
```

:)

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md [hunk 84]
```diff
@@ -0,0 +1,195 @@
...
+  htpy-id-Model-Signature' :
+    (f g : is-model-signature σ X) → UU (l1 ⊔ l2)
+  htpy-id-Model-Signature' f g = (op : operation-signature σ) → f op ~ g op
+
+  is-prop-htpy-id-Model-Signature' :
+    (f g : is-model-signature σ X) → is-prop (htpy-id-Model-Signature' f g)
+  is-prop-htpy-id-Model-Signature' f g =
+    is-prop-Π
+      ( λ op → is-prop-Π
+        ( λ v → is-set-type-Set X (f op v) (g op v)))
```
Comment (fredrik-bakke) [inline src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]:
```suggestion
    is-prop-Π (λ op → is-prop-Π (λ v → is-set-type-Set X (f op v) (g op v)))
```

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md (hunk 82 above)
Comment (fredrik-bakke) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: I.e. the full proof would be something like (with more details added in, and some lambdas)

```agda
  equiv-Π-equiv-family 
    ( equiv-Π-equiv-family   
      ( equiv-concat' 
        ( ap 
          ( g op) 
          ( preserves-id-map-tuple (arity-operation-signature σ op) v)))
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 85]
```diff
@@ -0,0 +1,269 @@
...
+
+  equiv-equiv-hom-Algebra' :
+    (B : Algebra σ T l3) → equiv-hom-Algebra σ T A B ≃
+    Σ (hom-Set (set-Algebra σ T A) (set-Algebra σ T B))
+      (λ f → (is-equiv f) × preserves-operations-Algebra σ T A B f)
+  pr1 (equiv-equiv-hom-Algebra' B) ((f , p) , eq) = (f , eq , p)
+  pr1 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = ((f , p) , eq)
+  pr2 (pr1 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
+  pr1 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) (f , eq , p) = ((f , p) , eq)
+  pr2 (pr2 (pr2 (equiv-equiv-hom-Algebra' B))) _ = refl
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md:154]:
```suggestion
  equiv-equiv-hom-Algebra' B = associative-Σ _ _ _
```
:)

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 86]
```diff
@@ -0,0 +1,269 @@
...
+
+```agda
+module _
+  {l1 l2 l3 : Level} (σ : signature l1) (T : Theory σ l2) (A : Algebra σ T l3)
+  where
+
+  equiv-equiv-hom-Algebra' :
+    (B : Algebra σ T l3) → equiv-hom-Algebra σ T A B ≃
+    Σ (hom-Set (set-Algebra σ T A) (set-Algebra σ T B))
+      (λ f → (is-equiv f) × preserves-operations-Algebra σ T A B f)
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
    (B : Algebra σ T l3) →
    equiv-hom-Algebra σ T A B ≃
    Σ ( hom-Set (set-Algebra σ T A) (set-Algebra σ T B))
      ( λ f → (is-equiv f) × preserves-operations-Algebra σ T A B f)
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 87]
```diff
@@ -0,0 +1,269 @@
...
+
+  equiv-iso-Eq-Algebra : Eq-Algebra σ T A B ≃ iso-Algebra
+  equiv-iso-Eq-Algebra =
+    equiv-type-subtype
+      ( is-prop-is-equiv-hom-Algebra σ T A B)
+      ( is-prop-is-iso-Algebra)
+      ( is-iso-is-equiv-hom-Algebra)
+      ( is-equiv-hom-is-iso-Algebra) ∘e
+      ( inv-equiv (equiv-equiv-hom-Algebra' σ T A B)) ∘e
+      ( equiv-Eq-Model-Signature' σ (model-Algebra σ T A) (model-Algebra σ T B))
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
    ( equiv-type-subtype
      ( is-prop-is-equiv-hom-Algebra σ T A B)
      ( is-prop-is-iso-Algebra)
      ( is-iso-is-equiv-hom-Algebra)
      ( is-equiv-hom-is-iso-Algebra)) ∘e
    ( inv-equiv (equiv-equiv-hom-Algebra' σ T A B)) ∘e
    ( equiv-Eq-Model-Signature' σ (model-Algebra σ T A) (model-Algebra σ T B))
```

File: src/universal-algebra/isomorphisms-of-algebras.lagda.md [hunk 88]
```diff
@@ -0,0 +1,269 @@
...
+                ( map-tuple (map-inv-is-equiv eq) v)))))
+                  where
+                  eq2 : (n : ℕ) (w : tuple (type-Algebra σ T B) n) →
+                    Eq-tuple n w (map-tuple
+                      (map-hom-Algebra σ T A B f)
+                      (map-tuple (map-inv-is-equiv eq) w))
+                  eq2 zero-ℕ empty-tuple = map-raise star
+                  pr1 (eq2 (succ-ℕ n) (x ∷ w)) =
+                    inv (is-section-map-section-is-equiv eq x)
+                  pr2 (eq2 (succ-ℕ n) (x ∷ w)) = eq2 n w
```
Comment (fredrik-bakke) [inline src/universal-algebra/isomorphisms-of-algebras.lagda.md]:
```suggestion
    where
    eq2 : (n : ℕ) (w : tuple (type-Algebra σ T B) n) →
      Eq-tuple n w
        ( map-tuple
          ( map-hom-Algebra σ T A B f)
          ( map-tuple (map-inv-is-equiv eq) w))
    eq2 zero-ℕ empty-tuple = map-raise star
    pr1 (eq2 (succ-ℕ n) (x ∷ w)) = inv (is-section-map-section-is-equiv eq x)
    pr2 (eq2 (succ-ℕ n) (x ∷ w)) = eq2 n w
```

File: tables/precategories.md [hunk 89]
```diff
@@ -1,6 +1,7 @@
 | Precategory                               | File                                                                                                                                              |
 | ----------------------------------------- | ------------------------------------------------------------------------------------------------------------------------------------------------- |
 | Algebras of a monad on a precategory      | [`category-theory.precategory-of-algebras-monads-on-precategories`](category-theory.precategory-of-algebras-monads-on-precategories.md)           |
+| Algebras over an equational theory        | [`universal-algebra.precategory-of-algebras-of-theories`](universal-algebra.precategory-of-algebras-of-theories.md)                               |
```
Comment (fredrik-bakke) [inline tables/precategories.md]: Recently I implemented the convention that this table only contains the precategories that are not shown to be categories (yet) #1440, so it is enough for this to exist in the other table.
```suggestion
```

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 90]
```diff
@@ -0,0 +1,141 @@
...
+open import lists.functoriality-tuples
+open import lists.tuples
+
+open import universal-algebra.models-of-signatures
+open import universal-algebra.signatures
+```
+
+</details>
+
+## Idea
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md:34]: An explanation of the contents of the file is missing here

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 91]
```diff
@@ -0,0 +1,141 @@
...
+
+```agda
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md:52]:
````suggestion
## Definitions

### The predicate on maps of models of preserving operations

```agda
````

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 92]
```diff
@@ -0,0 +1,141 @@
...
+
+  prop-preserves-operations-Model-Signature :
+    {l2 l3 : Level} (X : Model-Signature σ l2) (Y : Model-Signature σ l3)
+    (f : hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y)) →
+    Prop (l1 ⊔ l2 ⊔ l3)
+  pr1 (prop-preserves-operations-Model-Signature X Y f) =
+    preserves-operations-Model-Signature X Y f
+  pr2 (prop-preserves-operations-Model-Signature X Y f) =
+    is-prop-preserves-operations-Model-Signature X Y f
+
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md:91]:
````suggestion
```

### The type of morphisms of models of a signature

```agda
````

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 93]
```diff
@@ -0,0 +1,141 @@
...
+    ( preserves-id-map-tuple (arity-operation-signature σ op) v)
+
+id-hom-Model-Signature :
+  {l1 l2 : Level} (σ : signature l1) (X : Model-Signature σ l2) →
+  hom-Model-Signature σ X X
+pr1 (id-hom-Model-Signature σ X) = id
+pr2 (id-hom-Model-Signature σ X) = preserves-operations-id-Model-Signature σ X
+```
+
+### Characterizing the identity type of morphisms of model structures
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md]:
```suggestion
### Characterizing the identity type of morphisms of models
```

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md (hunk 81 above)
Comment (djspacewhale) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: Here's my thinking: the `preserves-operations` definition of `htpy-id` feels better-equipped for the case where the structure-preserving map isn't `id`, which is needed to apply the structure identity principle. In the case that that map *is* `id`, i.e. the specific case also used in the SIP, this is equivalent to the (I agree, much nicer) `f op ~ g op` definition. SIP requires both the "generic" type family over all models as well as the case over a fixed base type, right?

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md (hunk 82 above)
Comment (djspacewhale) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: I'll give this a swing, okay!

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 94]
```diff
@@ -0,0 +1,159 @@
...
+
+open import universal-algebra.models-of-signatures
+open import universal-algebra.signatures
+```
+
+</details>
+
+## Idea
+
+A **morphism of [`σ`-models](universal-algebra.models-of-signatures.md)** `A`
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md]:
```suggestion
A {{#concept "morphism" Disambiguation="of models over a signature" Agda=hom-Model-Signature}} of [`σ`-models](universal-algebra.models-of-signatures.md) `A`
```

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 95]
```diff
@@ -0,0 +1,159 @@
...
+and `B` is a function `f : A → B` between their underlying sets that preserves
+the operations of `σ`, in the sense that for `op ∈ σ` an abstract operation with
+arity `n ∈ ℕ`, and `assign-A assign-B` the semantics of `σ` in `A B` resp., and
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md]:
```suggestion
arity `n ∈ ℕ`, and `assign-A` and `assign-B` the semantics of `σ` in `A` and `B` respectively, and
```

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 96]
```diff
@@ -0,0 +1,159 @@
...
+for a `v ∈ tuple A n`, we have
+
+```text
+f (assign-A op v) = assign-B op (f v)
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md]:
```suggestion
  f (assign-A op v) = assign-B op (f v).
```

File: src/universal-algebra/morphisms-of-models-of-signatures.lagda.md [hunk 97]
```diff
@@ -0,0 +1,159 @@
...
+### The type of morphisms of models of a signature
+
+```agda
+  hom-Model-Signature :
+    {l2 l3 : Level} (X : Model-Signature σ l2) (Y : Model-Signature σ l3) →
+    UU (l1 ⊔ l2 ⊔ l3)
+  hom-Model-Signature X Y =
+    Σ
+      ( hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y))
+      ( preserves-operations-Model-Signature X Y)
```
Comment (fredrik-bakke) [inline src/universal-algebra/morphisms-of-models-of-signatures.lagda.md]:
```suggestion
    Σ ( hom-Set (set-Model-Signature σ X) (set-Model-Signature σ Y))
      ( preserves-operations-Model-Signature X Y)
```

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md (hunk 81 above)
Comment (fredrik-bakke) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: Gotcha, okay, you can keep the apostrophes as in the current version, but please rename from `htpy-id-Model-Signature` to `htpy-is-model-signature`. Actually, imo `is-model-signature` would be better named as `is-model-of-signature`, so if you'd like to make that change you're very welcome to. Also `Model-Signature` could be renamed to `Model-Of-Signature`, up to you.

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md [hunk 98]
```diff
@@ -0,0 +1,186 @@
...
+    (f g : is-model-signature σ X) →
+    htpy-id-Model-Signature' f g ≃ htpy-id-Model-Signature f g
+  equiv-htpy-id-htpy-id'-Model-Signature f g =
+    equiv-Π-equiv-family
+      ( λ op → equiv-Π-equiv-family
+        ( λ v → equiv-concat'
+          ( f op v)
+          ( ap
+            ( g op)
+            ( preserves-id-map-tuple (arity-operation-signature σ op) v))))
```
Comment (fredrik-bakke) [inline src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: Remember to always break lines at the earliest possible point!
```suggestion
    equiv-Π-equiv-family
      ( λ op →
        equiv-Π-equiv-family
          ( λ v →
            equiv-concat'
              ( f op v)
              ( ap
                ( g op)
                ( preserves-id-map-tuple (arity-operation-signature σ op) v))))
```

**Comment by fredrik-bakke** [comment]
I just had a look at your blog, it looks very nice. You should totally add links to the corresponding formalization for each topic you discuss! You can add (semi)stable anchors to specific sections of the documents too, just add `{#YOUR-PREFERRED-ANCHOR-NAME}` at the end of a section header, then you can link to that section by using the link to the page with `#YOUR-PREFERRED-ANCHOR-NAME` appended. See how it is done in `literature.wikipedia-list-of-theorems` for an example

File: src/universal-algebra/equivalences-of-models-of-signatures.lagda.md (hunk 81 above)
Comment (djspacewhale) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: I'd like to get this PR merged, so how about I work this in and open a new branch to standardize naming across the namespace?

Comment (fredrik-bakke) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: Sure, yes, as I said it is voluntary. Then `htpy-id-Model-Structure` should only be renamed to `htpy-is-model-structure`

Comment (fredrik-bakke) [reply src/universal-algebra/equivalences-of-models-of-signatures.lagda.md]: For this comment to be resolved I mean

**Review by fredrik-bakke — APPROVED** [review]
🏅

**Comment by fredrik-bakke** [comment]
Checks pass 🍨

**Comment by djspacewhale** [comment]
Yippee!!
